US09169259B2
3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzaldehyde (70 mg, 0.175 mmol) and pyrrolidine (14 mg, 0.194 mmol) were dissolved in 1,2-dichloroethane (10 mL), stirred for 1 h, then sodium triacetoxyborohydride (111 mg, 0.525 mmol) was added followed by AcOH (0.2 mL). After 15 h, the solvent was removed and the residue purified by chromatography (silica gel, dichloromethane/methanol 90:1) to give N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(pyrrolidin-1-ylmethyl)phenyl)imidazo[1,2-b]pyridazin-8-amine (18 mg, 23%) as an orange solid. 1H NMR (300 MHz, CD3OD): δ 8.70 (s, 1H), 8.05 (s, 1H), 7.91-7.85 (m, 2H), 7.59-7.48 (m, 3H), 7.38-7.35 (m, 1H), 6.21 (d, 1H, J=7.5 Hz), 6.01 (d, 1H, J=7.8 Hz), 4.25-4.17 (m, 3H), 3.55 (s, 1H), 3.37-3.44 (m, 1H), 3.17 (brs, 4 h), 2.08-1.97 (m, 7H), 1.72 (brs, 1H), 1.13 (d, 3H, J=4.5 Hz). LC-MS: [M+H]+, 454, tR=1.367 min, HPLC: 99.54% at 214 nm, 99.89% at 254 nm, tR=5.164 min.

reactant | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzaldehyde | 0.175 mmol, 70 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=O)C=CC1)C=CN2 | C23H22N6O
reactant | pyrrolidine | 0.194 mmol, 14 mg | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 0.525 mmol, 111 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.2 mL | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(pyrrolidin-1-ylmethyl)phenyl)imidazo[1,2-b]pyridazin-8-amine | 18 mg, 23% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC(=CC=C1)CN1CCCC1)C=CN2 | C27H31N7
